US04804773
A mixture of 200 mg (0.68 mmol) of 4-triethylsiloxy-4-trifluoromethyl-2,5-cyclohexadien-1-one and 1 mL of a solution of 1 part 37% hydrochloric acid in 9 parts absolute ethanol was heated at reflux overnight and poured into 10 mL of water. The resulting aqueous mixture was extracted with three 10 mL portions of dichloromethane. Combination, drying (MgSO4), and concentration of the organic layers afforded a residue which was purified by PTLC (one 2 mm silica gel plate eluted with 1% methanol - 99% dichloromethane) to give 109 mg (89% yield) of 4-hydroxy-4-trifluoromethyl-2,5-cyclohexadien-1-one. An analytical sample was obtained by crystallization from dichloromethane-hexane: mp 84°-86° C.; 1H NMR (CDCl3)δ3.40 (broad s, 1H), 6.40 (d, 2H, J=10 Hz), 6.89 (d, 2H, J=10 Hz); 13C NMR (CDCl3) 70.2 (q, JCF =30 Hz), 125.0 (q, JCF =286 H), 132.2 (d), 142.7 (d), 184.5 (s) ppm; 19F NMR (CDCl3) relative to CFCl3)-79.6 ppm (s); IR (KBr) 3374, 3105, 3022, 2919, 1693, 1671, 1632, 1620, 1396, 1249, 1235, 1195, 1174, 1089, 1078, 1003, 988, 980, 973, 863, 698 cm-1 ; mass spectrum (70 eV) m/z (relative intensity) 178 (5, M+), 109 (100), 81 (34), 53 (36). Anal. Calcd. for C7H5F3O2 : C, 47.20; H, 2.83. Found: C, 47.42; H, 2.80.

reactant | 4-triethylsiloxy-4-trifluoromethyl-2,5-cyclohexadien-1-one | 0.68 mmol, 200 mg | C(C)[Si](OC1(C=CC(C=C1)=O)C(F)(F)F)(CC)CC | C13H19F3O2Si
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
solvent | water | 10 mL | O | H2O
product | 4-hydroxy-4-trifluoromethyl-2,5-cyclohexadien-1-one | 109 mg, 89% yield | OC1(C=CC(C=C1)=O)C(F)(F)F | C7H5F3O2
